### PR TITLE
Initial rep

### PR DESCRIPTION
**Pull request by amblafont**
Proof that the initial hss is the initial representation in the sense of Hirschowitz & Maggesi

### CODE REVIEW

**Comment by benediktahrens** [comment]
Great work! 
I would like to see some stuff added, notably a map of type
```
Initial (hss_precategory S) -> Initial (Rep S)
```
where `Rep S` is the category of representations à la HM still to be defined.
This can be in a subsequent PR, for now let's focus on the technical details of the material you present in the current PR.

**Comment by DanGrayson** [comment]
I think proofs are more robust if they focus on just one goal at a time, and
we make such a recommendation in the README, e.g.:
```
diff --git a/UniMath/SubstitutionSystems/ModulesFromSignatures.v b/UniMath/SubstitutionSystems/ModulesFromSignatures.v
index d6e53492..4d23e28b 100644
--- a/UniMath/SubstitutionSystems/ModulesFromSignatures.v
+++ b/UniMath/SubstitutionSystems/ModulesFromSignatures.v
@@ -381,14 +381,14 @@ Section InitialRep.
       apply cancel_postcomposition.
       etrans;[eapply assoc|].
       etrans.
-      eapply cancel_postcomposition.
-      eapply (θ_nat_1_pw _ _ a (p T_alg)).
+      { eapply cancel_postcomposition.
+        eapply (θ_nat_1_pw _ _ a (p T_alg)). }
       rewrite <- assoc.
       apply cancel_precomposition.
       etrans; revgoals.
-      eapply pathsinv0.
-      eapply nat_trans_eq_pointwise.
-      eapply (functor_comp H (_:EndC⟦ T_mon ∙ x', T_mon ∙ x⟧) ).
+      { eapply pathsinv0.
+        eapply nat_trans_eq_pointwise.
+        eapply (functor_comp H (_:EndC⟦ T_mon ∙ x', T_mon ∙ x⟧) ). }
       apply cancel_postcomposition.
       apply functor_cancel_pw.
       apply (nat_trans_eq hs).
```

**Comment by benediktahrens** [comment]
Many of the proofs use `eapply foo` where `apply foo` would work. Could you please use `apply` when possible, to indicate that no metavariable is created by the tactic?

File: UniMath/SubstitutionSystems/ModulesFromSignatures.v [hunk 1]
```diff
@@ -182,3 +194,407 @@ H(M) T ------> H(MT) ------> H(M)
...
+      + apply ((θ  (Z ⊗ (p T_hss)))·#H h· (τ_M:nat_trans _ _)).
+  Defined.
+
+  Local Lemma ψ_nt : is_nat_trans _ _ ψ_pw.
+  Proof.
+    intros x x' a.
+    cbn in a.
+    apply weqfunextsec.
+    intros f.
+    eapply (nat_trans_eq hs).
```
Comment (benediktahrens) [inline UniMath/SubstitutionSystems/ModulesFromSignatures.v]: `apply` instead of `eapply`

File: UniMath/SubstitutionSystems/ModulesFromSignatures.v [hunk 2]
```diff
@@ -182,3 +194,407 @@ H(M) T ------> H(MT) ------> H(M)
...
+    intro c.
+    etrans; revgoals.
+    eapply pathsinv0.
```
Comment (benediktahrens) [inline UniMath/SubstitutionSystems/ModulesFromSignatures.v]: Use bullets or indentation to indicate that this tactic acts on one of two subgoals.

File: UniMath/SubstitutionSystems/ModulesFromSignatures.v [hunk 3]
```diff
@@ -182,3 +194,407 @@ H(M) T ------> H(MT) ------> H(M)
...
+    eapply (precompWithBinCoproductArrow C (CP _ _) (CP _ _)
+                                         (identity _) (((# H a):nat_trans _ _) (T_func c))).
+    eapply BinCoproductArrow_eq.
+    + eapply pathsinv0,id_left.
+    + apply pathsinv0.
+      etrans;[eapply assoc|].
+      apply cancel_postcomposition.
+      etrans;[eapply assoc|].
+      etrans.
+      eapply cancel_postcomposition.
```
Comment (benediktahrens) [inline UniMath/SubstitutionSystems/ModulesFromSignatures.v]: Indent or use bullets from here on.

File: UniMath/SubstitutionSystems/ModulesFromSignatures.v [hunk 4]
```diff
@@ -182,3 +194,407 @@ H(M) T ------> H(MT) ------> H(M)
...
+    (∏ x,
+     BinCoproductIn2 C (CP (_ (T_mon x)) ((H T_func:functor _ _) (T_mon x))) ·
+                     (# L (alg_map Id_H T_alg):nat_trans _ _) x · h x =
+     (θ (`T_alg ⊗ p T_alg):nat_trans _ _) x · (# H h:nat_trans _ _) x · τ_M x) ->
+    # L (alg_map Id_H T_alg) · h = (ψ:nat_trans _ _) `T_alg h.
+  Proof.
+    intros hB1 hB2.
+    eapply (nat_trans_eq hs).
+    intros x.
+    etrans.
```
Comment (benediktahrens) [inline UniMath/SubstitutionSystems/ModulesFromSignatures.v]: Indentation and/or bullets.

File: UniMath/SubstitutionSystems/ModulesFromSignatures.v [hunk 5]
```diff
@@ -182,3 +194,407 @@ H(M) T ------> H(MT) ------> H(M)
...
+  Qed.
+
+
+  Let τT := τ_lmodule_mor T.
+
+  (** j is a morphism of representation.
+    It is exactly the 'H' part of the Id + H algebra morphism diagram *)
+  Lemma j_mor_rep x : τT x · j_mor x = (# H j_mor:nat_trans _ _) x · τ_M x.
+  Proof.
+    etrans.
```
Comment (benediktahrens) [inline UniMath/SubstitutionSystems/ModulesFromSignatures.v]: Bullets and/or indentation.

File: UniMath/SubstitutionSystems/ModulesFromSignatures.v [hunk 6]
```diff
@@ -182,3 +194,407 @@ H(M) T ------> H(MT) ------> H(M)
...
+    - intros x.
+      eapply j_mon_η.
+  Defined.
+
+
+
+  (** j is a monad morphism (following Ralph's proof). For the square diagram,
+     we show that both parts satisfies the same Mendler iterator characteristic equation*)
+  Lemma j_mon : Monad_Mor_laws (T:=T_mon) (T':=M) (mor_from_algebra_mor _ _ _ j).
+  Proof.
```
Comment (benediktahrens) [inline UniMath/SubstitutionSystems/ModulesFromSignatures.v]: Please prove the individual equations in a two separate lemmas, and then put them together in this proof.

File: UniMath/SubstitutionSystems/ModulesFromSignatures.v [hunk 7]
```diff
@@ -182,3 +194,407 @@ H(M) T ------> H(MT) ------> H(M)
...
+                                                 (μ M))).
+      apply (uniqueExists _ _ uniq_iter).
+      + apply coprod_iter_eq; intro x.
+        * (* T monad law *)
+          etrans;[apply assoc|].
+          etrans.
+          apply cancel_postcomposition.
+          eapply (Monad_law1 (T:=T_mon)).
+          apply id_left.
+        * (* tau_T is a module morphism *)
```
Comment (benediktahrens) [inline UniMath/SubstitutionSystems/ModulesFromSignatures.v]: Please 
- consider splitting this subgoal out into a separate lemma
- use bullets and/or indentation to structure the proof better

File: UniMath/SubstitutionSystems/ModulesFromSignatures.v [hunk 8]
```diff
@@ -182,3 +194,407 @@ H(M) T ------> H(MT) ------> H(M)
...
+                                (constant_functor _ _ (functor_identity _ : EndC))
+                                H.
+
+  Let Alg : precategory := FunctorAlg Id_H hsEndC.
+
+  (** The precategory of pointed endofunctors on [C] *)
+  Local Notation "'Ptd'" := (precategory_Ptd C hs).
+  (** The category of endofunctors on [C] *)
+  Local Notation "'EndC'":= ([C, C, hs]) .
+  (** The product of two precategories *)
```
Comment (rmatthes) [inline UniMath/SubstitutionSystems/ModulesFromSignatures.v]: there is no such product of two precategories here

**Comment by rmatthes** [comment]
I like the work. As usual, there is quite some technical work to be done just to get Coq accept the chain of equations one can write easily on paper. I am also happy that there are some comments on what is being done. As Benedikt mentioned, the file ends abruptly and does not give a "blindly" usable construction in the end. Maybe there is some specific strategy behind these multiple spawned meta-variables that we would have to understand and that we could use to get more quickly to the end of our proofs..

File: UniMath/SubstitutionSystems/ModulesFromSignatures.v [hunk 9]
```diff
@@ -182,3 +194,407 @@ H(M) T ------> H(MT) ------> H(M)
...
+
+
+  Let is_omega_cocont_Id_H' := LiftingInitial_alt .is_omega_cocont_Id_H C hs CP H HH.
+
+  Local Notation j_mor := ((mor_from_algebra_mor _ _ _ j):nat_trans _ _).
+
+  (**
+  Following Ralph's proof : we want to prove the square diagram for the monad morphism induced by
+  the initial algebra morphism j : T --> M :
+<<<<<<<<
```
Comment (mortberg) [inline UniMath/SubstitutionSystems/ModulesFromSignatures.v]: Who so many `<`? I think two suffices for this to be displayed properly in the documentation.

**Comment by vladimirias** [comment]
Could you please use a more understandable abbreviation or better yet the full name of whatever it is in comments?

**Comment by vladimirias** [comment]
Ahh.. I have guessed it is a heterogeneous substitution system. The only reason I was able to guess is, however, that I know the titles of some of the papers involved. How about h.s.-system with the full name where possible?

**Comment by DanGrayson** [comment]
With automatic expansion of abbreviations by emacs and global search and replace, there is no reason ever to abbreviate anything, since they don't save the experienced reader any time, and they waste the time of the inexperienced reader.

File: UniMath/SubstitutionSystems/ModulesFromSignatures.v (hunk 5 above)
Comment (vladimirias) [inline UniMath/SubstitutionSystems/ModulesFromSignatures.v]: What kind of subterm does etrans insert into the proof term? If it is not the kind we want can one write a tactic that would do the same using pathscomp0 to construct the proof term?

Comment (mortberg) [inline UniMath/SubstitutionSystems/ModulesFromSignatures.v]: etrans uses pathscomp0: https://github.com/UniMath/UniMath/blob/master/UniMath/Foundations/PartA.v#L349

Maybe this should be moved to https://github.com/UniMath/UniMath/blob/master/UniMath/MoreFoundations/Tactics.v ?

File: UniMath/SubstitutionSystems/ModulesFromSignatures.v [hunk 10]
```diff
@@ -182,3 +199,421 @@ H(M) T ------> H(MT) ------> H(M)
...
+  Proof.
+    apply CocontFunctors.is_omega_cocont_pre_composition_functor, CC.
+  Defined.
+  Let isInitial_precomp' : isInitial [C, C, hs] (L InitialEndC) :=
+    LiftingInitial_alt.isInitial_pre_comp C hs IC p T_hss : isInitial [C, C, hs] (L InitialEndC).
+
+
+  Local Definition ψ_pw Z : _ ⟦ψ_source hsEndC X L Z, ψ_target Id_H hsEndC X L Z⟧ .
+  Proof.
+    - intros h.
```
Comment (benediktahrens) [inline UniMath/SubstitutionSystems/ModulesFromSignatures.v]: Superfluous bullet.

**Comment by benediktahrens** [comment]
Even though this work is missing the "wrapping up" in form of a term of type `Initial Rep`, I'd like to merge this PR now. The code that is there is in reasonable shape.
